US07812183B2
and 4-[3-(4-Chloro-phenyl)-6-oxo-6H-pyridazin-1-yl]-2,2-dimethyl-2H-chromene-6-carbonitrile (Compound #57)
Following the procedure in Example 1, using (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile and 6-(4-Chloro-phenyl)-2H-pyridazin-3-one as starting materials, the title compound were prepared as white solids.

reactant | (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile | CC1(C2C(C3=CC(=CC=C3O1)C#N)O2)C | C12H11NO2
reactant | 6-(4-Chloro-phenyl)-2H-pyridazin-3-one | ClC1=CC=C(C=C1)C=1C=CC(NN1)=O | C10H7ClN2O
product | 4-[3-(4-Chloro-phenyl)-6-oxo-6H-pyridazin-1-yl]-2,2-dimethyl-2H-chromene-6-carbonitrile | ClC1=CC=C(C=C1)C1=NN(C(C=C1)=O)C1=CC(OC2=CC=C(C=C12)C#N)(C)C | C22H16ClN3O2
